US06200981B1
i) [3-Methylphenoxy]acetic acid, methyl ester
A mixture of m-cresol (10.8 g), methyl bromoacetate (15.3 g) and potassium carbonate (69 g) in dimethylformamide (200 ml) was stirred overnight and partitioned between ethyl acetate and water. The organic phase was washed with water, dried (MgSO4) and evaporated. Purified by chromatography eluting with toluene. Yield 12.7 g.

reactant | m-cresol | 10.8 g | C1=C(C=CC=C1O)C | C7H8O
reactant | methyl bromoacetate | 15.3 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 69 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | [3-Methylphenoxy]acetic acid, methyl ester | CC=1C=C(OCC(=O)OC)C=CC1 | C10H12O3
